US08871782B2
The synthesis of 2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol is described in Parts A-I of Example 2. A modification of the method described in Part A of Example 405 was used to convert 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol into 2-(ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinoline using 3-hydroxytetrahydrofuran in lieu of 1-(3-hydroxypropyl)pyrrolidin-2-one. Modifications of the methods described in Parts B and C of Example 405 were used to convert 2-(ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinoline into 2-(ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinolin-4-amine. Parts B and C were combined by omitting the aqueous work up of Part B, in other words, the ammonium hydroxide and p-toluenesulfonyl chloride reagents used in Part C were added to the reaction mixture in Part B. The reaction was worked up as described in Part C of Example 405. 2-(Ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinolinamine was isolated as tan needles, mp 173-175° C.

reactant | 2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)CCC | C16H19N3O2
reactant | 2-(ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinoline | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)OC2COCC2)N1)CCC | C20H25N3O3
reactant | 3-hydroxytetrahydrofuran | OC1COCC1 | C4H8O2
reactant | 1-(3-hydroxypropyl)pyrrolidin-2-one | OCCCN1C(CCC1)=O | C7H13NO2
reactant | 2-(ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinolin-4-amine | C(C)OCC=1N(C2=C(C(=NC=3C=CC(=CC23)OC2COCC2)N)N1)CCC | C20H26N4O3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 2-(Ethoxymethyl)-1-propyl-8-(tetrahydrofuran-3-yloxy)-1H-imidazo[4,5-c]quinolinamine | C(C)OCC1(N(C2=C(C=NC=3C=CC(=CC23)OC2COCC2)N1)CCC)N | C20H28N4O3
